US09315521B2
6-methyl-2-[(quinolin-3-ylmethyl)sulfanyl]pyrimidin-4-ol
3-(bromomethyl)quinoline, 6-methyl-2-sulfanylpyrimidin-4-ol (853 mg, 6 mmol) and triethylamine (1 mL, 7 mmol) were mixed in ethanol (50 mL). The mixture was stirred at room temperature for 2 hours. After evaporation, water (100 mL) was added. The suspension was filtered and washed with water and ethyl acetate to provide pure titled product (1.7 g, 99% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.54 (s, 2H), 6.01 (s, 1H), 7.58 (m, 1H), 7.70 (m, 1H), 7.94 (m, 2H), 8.35 (s, 1H), 8.96 (s, 1H); M+284.

reactant | 3-(bromomethyl)quinoline | BrCC=1C=NC2=CC=CC=C2C1 | C10H8BrN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 6 mmol, 853 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 7 mmol, 1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-methyl-2-[(quinolin-3-ylmethyl)sulfanyl]pyrimidin-4-ol | 1.7 g, 99% yield | CC1=CC(=NC(=N1)SCC=1C=NC2=CC=CC=C2C1)O | C15H13N3OS
